US08865736B2
3-Benzo[1,3]dioxol-5-yl-5-bromomethyl-[1,2,4]oxadiazole
Bromoacetyl bromide (0.22 g, 1.10 mmol) was added to N-Hydroxy-benzo[1,3]dioxole-5-carboxamidine (0.40 g, 0.55 mmol) and K2CO3 (0.38 g, 0.78 mmol). The reaction mixture was heated at 100° C. for 15 min. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (60-120 M, 5% EtOAc-Hexane) to get the desired product (0.05 g, 31%).

reactant | Bromoacetyl bromide | 1.10 mmol, 0.22 g | BrCC(=O)Br | C2H2Br2O
reactant | N-Hydroxy-benzo[1,3]dioxole-5-carboxamidine | 0.55 mmol, 0.40 g | ONC(=N)C1=CC2=C(OCO2)C=C1 | C8H8N2O3
reactant | K2CO3 | 0.78 mmol, 0.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 25 mL | O | H2O
product | 3-Benzo[1,3]dioxol-5-yl-5-bromomethyl-[1,2,4]oxadiazole | 0.05 g, 31% | O1COC2=C1C=CC(=C2)C2=NOC(=N2)CBr | C10H7BrN2O3
